US09315490B2
283a) N-(2-Amino-2-oxoethyl)-1-(5-(4-methoxypyridin-2-yl)pyrimidin-2-yl)-N-methyl-3-(methylthio)-1H-indole-6-carboxamide
PdCl2(dppf) (0.094 g, 0.115 mmol) was added under an argon atmosphere to a suspension of N-(2-amino-2-oxo ethyl)-1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylthio)-1H-indole-6-carboxamide (1.0 g, 2.3 mmol), bis(pinacolato)diboron (0.655 g, 2.58 mmol) and potassium acetate (0.68 g, 6.91 mmol) in dioxane (40 mL) and the mixture was stirred at 110° C. for 1 h. After cooling to room temperature, 2-bromo-4-ethoxy-pyridine (0.65 g, 3.45 mmol), a 2M potassium carbonate solution (8.0 mL) and tetrakis(triphenylphosphine)palladium(0) (0.133 g, 0.115 mmol) were added. The reaction mixture was stirred at 100° C. for 16 h, and then filtered through celite. The filter was washed with methanol/dichloromethane (1:9), the filtrate was concentrated and the residue purified by flash column chromatography [silica; methanol/dichloromethane=3.5:96.5]. White solid. Yield: 0.185 g

reactant | N-(2-amino-2-oxo ethyl)-1-(5-bromopyrimidin-2-yl)-N-methyl-3-(methylthio)-1H-indole-6-carboxamide | 2.3 mmol, 1.0 g | NC(CN(C(=O)C1=CC=C2C(=CN(C2=C1)C1=NC=C(C=N1)Br)SC)C)=O | C17H16BrN5O2S
reactant | bis(pinacolato)diboron | 2.58 mmol, 0.655 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.91 mmol, 0.68 g | C(C)(=O)[O-].[K+]
reactant | 2-bromo-4-ethoxy-pyridine | 3.45 mmol, 0.65 g | BrC1=NC=CC(=C1)OCC | C7H8BrNO
reactant | potassium carbonate | 2M, 8.0 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.115 mmol, 0.094 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.115 mmol, 0.133 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(2-Amino-2-oxoethyl)-1-(5-(4-methoxypyridin-2-yl)pyrimidin-2-yl)-N-methyl-3-(methylthio)-1H-indole-6-carboxamide | NC(CN(C(=O)C1=CC=C2C(=CN(C2=C1)C1=NC=C(C=N1)C1=NC=CC(=C1)OC)SC)C)=O | C23H22N6O3S
